US04906621
A solution of 5.9 g of 4-(diethylphosphonomethyl)-2-cyanoquinoline in 24 ml of concentrated sulfuric acid is heated at 80° for 5 minutes, cooled to 0° and added slowly to an ice-cooled mixture of 50 g of sodium carbonate in 50 ml of water and 100 ml of methylene chloride. The organic layer is separated, dried over sodium sulfate and evaporated to dryness to yield 4-(diethylphosphonomethyl)-quinoline-2-carboxamide.

reactant | 4-(diethylphosphonomethyl)-2-cyanoquinoline | 5.9 g | C(C)OP(=O)(OCC)CC1=CC(=NC2=CC=CC=C12)C#N | C15H17N2O3P
reactant | sodium carbonate | 50 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 24 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(diethylphosphonomethyl)-quinoline-2-carboxamide | C(C)OP(=O)(OCC)CC1=CC(=NC2=CC=CC=C12)C(=O)N | C15H19N2O4P
